US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluoro-2-nitro-phenyl)-ethyl]-methyl-amide
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide (the compound of Preparation Example 41) (222 mg) was dissolved in a concentrated sulfuric acid (1.5 mL), potassium nitrate (74 mg) was added in small amounts on an ice bath. After stirring for 45 minutes, the reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water, an aqueous solution of sodium bicarbonate and saturated sodium chloride water, and dried with anhydrous magnesium sulfate. Spots for two products were identified by silica gel TLC (hexane/ethyl acetate=1:1). The residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), fractions with a high RF value were collected, and the title compound (78 mg) was obtained as a colorless solid.

reactant | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C | C17H18FNO3S2
reactant | potassium nitrate | 74 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluoro-2-nitro-phenyl)-ethyl]-methyl-amide | 78 mg | FC1=CC(=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C)[N+](=O)[O-] | C17H17FN2O5S2
